US05364844
(2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-ethylhexanamide
A solution of 400 mg (1.08 mmoles) of (5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]dihydrofuran-2(3H)-one (prepared as described in Preparation 5) in 20 ml of methanol was saturated with ethylamine. After it had been allowed to stand at room temperature overnight, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue obtained, as an oily substance was dissolved in warm diethyl ether. The solution was then allowed to stand, and the needle-like crystals which deposited were collected by filtration, to give 317 mg of the title compound, melting at 155°-157° C.

reactant | (5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]dihydrofuran-2(3H)-one | 1.08 mmoles, 400 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1CCC(O1)=O | C17H29NO4
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | 20 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-ethylhexanamide | 317 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCC)C(C)(C)O)O)CC1CCCCC1 | C22H42N2O5
